US08017601B2
N-(6-(3-carbamoyl-2-methylphenyl)naphthalen-2-yl)thiophene-3-carboxamide
3-bromo-2-methylbenzamide (12.5 mg, 0.0584 mmol), N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide (45.8 mg, 0.121 mmol), Fibercat palladium catalyst (Johnson-Matthey, 31.9 mg), and K2CO3 (2 M in water, 0.15 ml, 0.30 mmol) were combined in a microwave reaction vessel and 1,4-dioxane (0.7 ml) was added. The reaction tube was sealed and heated in the microwave (CEM microwave) at 60 Watts and 80 C for 10 minutes and then cooled to room temperature. The reaction was diluted with water (5 ml) and extracted with dichloromethane (3×10 ml) and EtOAc (10 ml). The organic extracts were combined, dried over magnesium sulfate, filtered, concentrated, and purified on HPLC (10%->95% MeCN/water with 0.1% TFA) to afford title compound (6.6 mg, 29%). MS (ESI pos. ion) m/z: 387 (M+H). Calc'd Exact Mass for C23H18N2O2S: 386.

reactant | 3-bromo-2-methylbenzamide | 0.0584 mmol, 12.5 mg | BrC=1C(=C(C(=O)N)C=CC1)C | C8H8BrNO
reactant | N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide | 0.121 mmol, 45.8 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1)C | C21H22BNO3S
reactant | K2CO3 | 0.30 mmol, 2 M, 0.15 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 0.7 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | 31.9 mg | [Pd] | Pd
solvent | water | 5 ml | O | H2O
product | N-(6-(3-carbamoyl-2-methylphenyl)naphthalen-2-yl)thiophene-3-carboxamide | 6.6 mg, 29% | C(N)(=O)C=1C(=C(C=CC1)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1)C | C23H18N2O2S
